US07504508B2
N-(4-Chloro-phenyl)-N-[(2S,4R)-2-methyl-(4-pyrrolidin-2-yl-benzoyl)-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide (H-106)
Benzyl 2-(4-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}phenyl)pyrrolidine-1-carboxylate (237 mg, 0.381 mmol) was dissolved in HBr/Acetic acid (5 mL) and stirred for 2 h. The reddish slurry was partitioned between Et2O and 1N HCl. The HCl/water layer was washed 3× with Et2O to rid the benzyl bromide. The water layer was neutralized with 1N NaOH, and washed 3× with methylene chloride. The organic layer was dried over MgSO4, filtered and concentrated to afford the title compound (170 mg, 91%) as a white solid. 1H-NMR (CDCl3) δ: 1.05-1.20 (m, 1H), 1.13 (s, 3H), 1.50-1.62 (m, 1H), 1.76-1.90 (m, 2H), 2.02 (s, 3H), 2.05-2.20 (m, 2H), 2.20-2.38 (m, 1H), 2.93-3.03 (m, 1H), 3.09-3.18 (m, 1H), 4.05 (t, 1H), 4.72-4.82 (m, 1H), 5.45-5.75 (m, 1H), 6.49 (d, 1H), 6.88 (t, 1H), 7.11-7.29 (m, 8H), 7.37 (d, 2H).

reactant | Benzyl 2-(4-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}phenyl)pyrrolidine-1-carboxylate | 0.381 mmol, 237 mg | C(C)(=O)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC=C(C=C1)C1N(CCC1)C(=O)OCC1=CC=CC=C1)C)C1=CC=C(C=C1)Cl | C37H36ClN3O4
solvent | HBr Acetic acid | 5 mL | Br.C(C)(=O)O
product | N-(4-Chloro-phenyl)-N-[(2S,4R)-2-methyl-(4-pyrrolidin-2-yl-benzoyl)-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide | 170 mg, 91% | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)C1NCCC1)=O)C | C29H30ClN3O2
